* C:\Users\perei\Documents\Teoria de Circuitos 2\Ltspice\TP1-OTA.asc
A2 N001 0 0 0 0 0 in 0 OTA G=10m Vlow=-1
C1 N001 0 1µ
V1 in 0 AC 1
A1 0 in 0 0 0 0 N001 0 OTA G=10m Vlow=-1
.ac dec 100 1 100k
.backanno
.end
