* C:\Users\perei\Documents\GitHub\Tc2-R4001-Pereira\Ltspice\TS12\Draft2.asc
I1 0 N001 AC 1 1
C1 N001 0 {C1}
C2 N002 N001 {C2}
L1 N001 N002 {L1}
C3 N002 0 {C3}
R1 N002 0 1
.ac dec 100 0.1 10
.param C1 = {27/17} C3 = {7/17}
.param C2 = {27/289} L1 = {289/243}
.backanno
.end
