* C:\Users\perei\Documents\GitHub\Tc2-R4001-Pereira\Ltspice\TS12\Ej2.asc
R1 N001 N003 2
R2 N002 N001 4
C1 N002 N001 0.25
R3 N002 0 0.4
C2 N002 0 1
V1 N003 0 AC 1 1
.ac dec 100 0.1 100
.backanno
.end
